US04471116
A solution of 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl)piperazine (4.22 g) and 4-(3-dimethylaminopropoxy)phenol hydrochloride, (2.3 g) in dimethylsulfoxide (100 ml) was stirred under nitrogen and warmed to 55° C. Then a solution of sodium hydroxide (0.8 g) in water (3 ml) was added and the reaction was stirred at 55°-65° for 2 hours. The usual work-up furnished the crude salt, which was crystallized from methanol-ethyl acetate to give 1.5 g of 3-[[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-1-piperazinyl]ethoxy]phenyl]oxy] -N,N-dimethylpropanamine trihydrochloride, mp 228°-230°.

reactant | 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl)piperazine | 4.22 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCCl | C21H25Cl2N3S
reactant | 4-(3-dimethylaminopropoxy)phenol hydrochloride | 2.3 g | Cl.CN(CCCOC1=CC=C(C=C1)O)C
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 3 ml | O | H2O
product | 3-[[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-1-piperazinyl]ethoxy]phenyl]oxy] -N,N-dimethylpropanamine trihydrochloride | 1.5 g | Cl.Cl.Cl.ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCOC1=CC=C(C=C1)OCCCN(C)C | InChI=1S/C32H41ClN4O2S.3ClH/c1-34(2)15-6-23-38-27-10-12-28(13-11-27)39-24-22-36-20-18-35(19-21-36)16-5-17-37-29-7-3-4-8-31(29)40-32-14-9-26(33)25-30(32)37;;;/h3-4,7-14,25H,5-6,15-24H2,1-2H3;3*1H
